US03950339
(4-Chloro-6-Phenyl-2-Pyrimidinylthio)Acetonitrile
To a solution of 14.9 g. (0.1 mole) of N,N-diethylaniline in 400 ml. of phosphorus oxychloride was added 26.1 g. (0.1 mole) of 2-(4-hydroxy-6-phenyl-2-pyrimidinylthio)acetamide. After being heated under reflux for one hour the phosphorus oxychloride was removed in a rotary evaporator. The residue was poured into 1000 ml. of ice-water and the precipitate was collected by filtration. The filter cake was triturated with 250 ml. of acetone with the insoluble material being removed by filtration. Dilution of filtrate with 250 ml. of water afforded a solid which was collected and recrystallized from ethyl acetate-petroleum ether to give 7 g. of material. A second recrystallization from ethyl acetate-heptane yielded the analytical sample, mp. 136°-141°.

reactant | N,N-diethylaniline | 0.1 mole | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(4-hydroxy-6-phenyl-2-pyrimidinylthio)acetamide | 0.1 mole | OC1=NC(=NC(=C1)C1=CC=CC=C1)SCC(=O)N | C12H11N3O2S
product | (4-Chloro-6-Phenyl-2-Pyrimidinylthio)Acetonitrile | ClC1=NC(=NC(=C1)C1=CC=CC=C1)SCC#N | C12H8ClN3S
